US03943133
Tris-(3,4-Dimethylphenyl)-s-Triazine
A mixture of 36.8 g. (0.20 mole) of cyanuric chloride, 88.0 g. (0.66 mole) of anhydrous aluminum chloride and 250 ml. of o-xylene was heated at 45°C for 1.5 hours. After cooling to room temperature, the mixture was poured into ice water, and then steam distilled to remove the excess o-xylene. The water was decanted from the pot residue and the remaining solid filtered, washed with acetone and dried to yield 58.1 g. of product, m.p. 220°-230°. Recrystallization from benzene gave an analytically pure sample, m.p. 235°-236°.

reactant | cyanuric chloride | 0.20 mole | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | aluminum chloride | 0.66 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | o-xylene | CC=1C=CC=CC1C | C8H10
product | Tris-(3,4-Dimethylphenyl)-s-Triazine | CC=1C=C(C=CC1C)C1=NC(=NC(=N1)C1=CC(=C(C=C1)C)C)C1=CC(=C(C=C1)C)C | C27H27N3
